US08048884B2
Preparation 18: Methanesulfonic acid 4-(4-{2-[methyl-(1-methyl-1H-pyrazole-4-sulfonyl)-amino]-ethyl}-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl)-benzyl ester
Add triethylamine (0.653 mmol, 0.091 mL) to a stirred solution of 1-methyl-1H-pyrazole-4-sulfonic acid {2-[3′-(4-hydroxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-amide (0.594 mmol, 0.280 g) in dry dichloromethane (5 mL) at room temperature under nitrogen. Add methanesulfonyl chloride (0.653 mmol, 0.051 mL). Allow the mixture to warm to room temperature and stir 1 hr. Dilute with dichloromethane and brine. Separate and extract the aqueous phase with dichloromethane. Combine organics, dry over Na2SO4, and concentrate to dryness to afford the title preparation (0.330 g, crude). The material is used without further purification. MS ES: m/z=550 [M+H]+.

reactant | triethylamine | 0.653 mmol, 0.091 mL | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-1H-pyrazole-4-sulfonic acid {2-[3′-(4-hydroxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-amide | 0.594 mmol, 0.280 g | OCC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CCN(S(=O)(=O)C=1C=NN(C1)C)C | C22H29N7O3S
reactant | methanesulfonyl chloride | 0.653 mmol, 0.051 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | Methanesulfonic acid 4-(4-{2-[methyl-(1-methyl-1H-pyrazole-4-sulfonyl)-amino]-ethyl}-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl)-benzyl ester | CN(CCN1CCN(CC1)C1=NC=CN=C1C1=CC=C(COS(=O)(=O)C)C=C1)S(=O)(=O)C=1C=NN(C1)C | C23H31N7O5S2
